US06960601B2
A solution of N-[(1S,2S)-2-(benzyloxy)cyclohexyl]-2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxamide (Table entry 276) (198 mg, 0.380 mmol) and N-bromosuccinimide (88 mg, 0.49 mmol) in dimethylformamide (5 mL) was stirred at 75° C. for 3 days. The solution was purified by preparative HPLC to give N-[(1S,2S)-2-(benzyloxy)cyclohexyl]-5-bromo-2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxamide as a white solid (196 mg, 86%). LC-MS m/z 598.1 (MH+), retention time 3.72 min (method 2).

reactant | N-[(1S,2S)-2-(benzyloxy)cyclohexyl]-2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxamide | 0.380 mmol, 198 mg | C(C1=CC=CC=C1)O[C@@H]1[C@H](CCCC1)NC(=O)C=1N=C(N(C1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C29H27Cl2N3O2
reactant | N-bromosuccinimide | 0.49 mmol, 88 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[(1S,2S)-2-(benzyloxy)cyclohexyl]-5-bromo-2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxamide | 196 mg, 86% | C(C1=CC=CC=C1)O[C@@H]1[C@H](CCCC1)NC(=O)C=1N=C(N(C1Br)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C29H26BrCl2N3O2
